US04992474
[2-[(7-Bromoheptyl)oxy]ethyl]benzene
(6.2 g), T.l.c. (CX-ER 40:1) Rf 0.29, from 1,7-dibromoheptane (10.5 g) and benzeneethanol (50.0 g).

reactant | 1,7-dibromoheptane | 10.5 g | BrCCCCCCCBr | C7H14Br2
reactant | benzeneethanol | 50.0 g | C1(=CC=CC=C1)CCO | C8H10O
product | [2-[(7-Bromoheptyl)oxy]ethyl]benzene | BrCCCCCCCOCCC1=CC=CC=C1 | C15H23BrO
